US07572808B2
B. Preparation of 2,3-dichloro-4-p-tolylpyridine
To a solution of 2,3-dichloro-4-iodopyridine (1.92 g, 7.0 mmol) in toluene (20 mL) at room temperature under argon was added 4-methylphenylboronic acid (1.05 g, 7.7 mmol), tetrakis(triphenylphosphine)palladium (0.40 g, 0.35 mmol), and aqueous Na2CO3 solution (2.0 M, 7 mL, 14 mmol). The resulting suspension was stirred and heated at 100° C. under argon for 5 h. Analysis by HPLC/MS indicated that starting material had been consumed. After the reaction mixture was cooled to room temperature, water (25 mL) and EtOAc (30 mL) were added. The layers were separated. The organic layer was dried (Na2SO4), filtered, and concentrated under reduced pressure. The crude product was purified by automated silica gel chromatography (eluted with ethyl acetate-hexanes) to obtain 1.64 g of the title compound as a white solid. HPLC/MS: retention time=3.77 min, [M+H]+=238. 1H NMR (CDCl3): δ 8.30 (d, J=4.9 Hz, 1H), 7.34-7.29 (m, 4H), 7.20 (d, J=4.9 Hz, 1H), 2.43 (s, 3H).

reactant | 2,3-dichloro-4-iodopyridine | 7.0 mmol, 1.92 g | ClC1=NC=CC(=C1Cl)I | C5H2Cl2IN
reactant | 4-methylphenylboronic acid | 7.7 mmol, 1.05 g | CC1=CC=C(C=C1)B(O)O | C7H9BO2
reactant | Na2CO3 | 14 mmol, 2.0 M, 7 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium | 0.35 mmol, 0.40 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2,3-dichloro-4-p-tolylpyridine | 1.64 g | ClC1=NC=CC(=C1Cl)C1=CC=C(C=C1)C | C12H9Cl2N
